US08383644B2
(S)-2-{[(3S,8S)-7-Benzoyl-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
(S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride (19 mg) was dissolved in 1:1 EtOAc and saturated aqueous NaHCO3 and benzoyl chloride (3 eq.) added. After stirring at room temperature for 1 hour, the layers were separated and the organic layer was dried over Na2SO4 and evaporated. The residue was purified over silica (hexanes to 8:2 hexanes-EtOAc to 6:4 hexanes-EtOAc to 6:4 hexanes-EtOAc+2% MeOH to DCM+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (20 mg). LCMS (m/z): 797.

reactant | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride | 19 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O
reactant | benzoyl chloride | 3 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (S)-2-{[(3S,8S)-7-Benzoyl-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | 20 mg | C(C1=CC=CC=C1)(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C48H49N3O8
